US07959530B2
224 g sorbic acid were added to 1,000 ml ethanol. While stirring, 117 g basic zinc carbonate was added incrementally at room temperature. The mixture formed a readily stirrable suspension. At room temperature, stirring was continued and, after a short delay, the formation of CO2 started which showed that the reaction was occurring. After 24 hours, enough zinc sorbate had formed so that a firm mass had formed. In a rotary evaporator, the ethanol was drawn off at 60° under vacuum. A white mass of zinc disorbate was recovered and ground in a mill.

reactant | sorbic acid | 224 g | C(\C=C\C=C\C)(=O)O | C6H8O2
reactant | zinc carbonate | 117 g | C([O-])([O-])=O.[Zn+2]
reactant | CO2 | C(=O)=O | CO2
solvent | ethanol | 1,000 ml | C(C)O | C2H6O
product | zinc sorbate | C(\C=C\C=C\C)(=O)[O-].[Zn+2].C(\C=C\C=C\C)(=O)[O-] | InChI=1S/2C6H8O2.Zn/c2*1-2-3-4-5-6(7)8;/h2*2-5H,1H3,(H,7,8);/q;;+2/p-2/b2*3-2+,5-4+;
